US04313942
Activation of Vitamin D2
The present invention thus provides a highly effective rodenticide preparation. The rodenticide is readily and economically prepared in a five-step sequence which does not require purification of intermediates. The preparation of this rodenticide in about 50% yield from vitamin D combined with its much higher rodenticidal activity (i.e., at least 20-30 times more potent than vitamin D3) make it a preferred agent for rodent control. The preparation should be particularly effective for the control of rats resistant to commercial rodenticides (e.g., warfarin) and is also advantageously used for the control of other rodents (e.g., mice) or other vertebrate pests (e.g., birds). The high potency of the material combined with its delayed onset of action should overcome problems of bait-avoidance or taste rejection encountered with previously known rodenticies.

reactant | vitamin D3 | C[C@H](CCCC(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C27H44O
reactant | warfarin | CC(=O)CC(C=1C=CC=CC1)C2=C(C=3C=CC=CC3OC2=O)O | C19H16O4
product | Vitamin D2 | C[C@H](/C=C/[C@H](C)C(C)C)[C@H]1CC[C@@H]\2[C@@]1(CCC/C2=C\C=C/3\C[C@H](CCC3=C)O)C | C28H44O
